US05362906
Step 4: (E,E)-4,8,12-trimethyl-3,7,11-tridecatrienyl tosylate
Tosylchloride (3.51 g, 9 mmol) was added to a stirred solution of (E,E)-4,8,12-trimethyl-3,7,11-tridecatrienol (1.66 g, 7 mmol) in pyridine (30 mL) at 0° C. The resulting mixture was placed in a refrigerator overnight, then poured into cold water and extracted with ether. The ethereal extract was washed with diluted hydrochloric acid to remove pyridine. After drying and filtration, the filtrate was evaporated to afford the title compound as an oil which was used in the next step without purification.

reactant | Tosylchloride | 9 mmol, 3.51 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | (E,E)-4,8,12-trimethyl-3,7,11-tridecatrienol | 7 mmol, 1.66 g | C\C(=C/CCO)\CC\C=C(\CCC=C(C)C)/C | C16H28O
reactant | water | O | H2O
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | (E,E)-4,8,12-trimethyl-3,7,11-tridecatrienyl tosylate | S(=O)(=O)(OCC\C=C(\CC\C=C(\CCC=C(C)C)/C)/C)C1=CC=C(C)C=C1 | C23H34O3S
